US07776860B2
Step 4 was the alkylation of N-(8-amino-2-oxo-2H-1-benzopyran-3-yl)-acetamide (4*) with bis-chloroethylamine yielding N-(8-(1-piperazinyl)-2-oxo-2H-1-benzopyran-3-yl-)acetamide (5*).

reactant | N-(8-amino-2-oxo-2H-1-benzopyran-3-yl)-acetamide | NC1=CC=CC=2C=C(C(OC21)=O)NC(C)=O | C11H10N2O3
reactant | bis-chloroethylamine | ClCCNCCCl | C4H9Cl2N
product | N-(8-(1-piperazinyl)-2-oxo-2H-1-benzopyran-3-yl-)acetamide | N1(CCNCC1)C1=CC=CC=2C=C(C(OC21)=O)NC(C)=O | C15H17N3O3
